US07696240B2
1-(5-Fluoro-benzo[b]thiophen-3-ylmethyl)-4-methoxy-1H-indole-2-carboxylic acid
Using general procedure B, 4-methoxy-1H-indole-2-carboxylic acid methyl ester was coupled with 3-bromomethyl-5-fluoro-benzo[b]thiophene (Lit. 18) and the product obtained was hydrolyzed to give the title compound as yellow solid. MS: 354.0 ([M−H]−).

reactant | 4-methoxy-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1NC2=CC=CC(=C2C1)OC | C11H11NO3
reactant | 3-bromomethyl-5-fluoro-benzo[b]thiophene | BrCC=1C2=C(SC1)C=CC(=C2)F | C9H6BrFS
product | 1-(5-Fluoro-benzo[b]thiophen-3-ylmethyl)-4-methoxy-1H-indole-2-carboxylic acid | FC1=CC2=C(SC=C2CN2C(=CC3=C(C=CC=C23)OC)C(=O)O)C=C1 | C19H14FNO3S
